US04870187
1,1-Dimethylethyl 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetate
To a solution of 1,1-dimethylethyl 3,5-dihydroxy-7-phenyl-6-heptenoate (5.5 g, 19 mmol) in acetone (2.3 g, 40 mmol) was added a catalyic amount of p-toluenesulfonic acid. After stirring for 2 hours, the mixture had solidified and was dissolved in excess acetone and filtered through a pad of sodium carbonate. The excess acetone was removed in vacuo and the residue crystallized from isopropyl ether to give 3.4 g of the title compound; m.p.=91°-93° C.

reactant | 1,1-dimethylethyl 3,5-dihydroxy-7-phenyl-6-heptenoate | 19 mmol, 5.5 g | OC(CC(=O)OC(C)(C)C)CC(C=CC1=CC=CC=C1)O | C17H24O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 40 mmol, 2.3 g | CC(=O)C | C3H6O
product | 1,1-Dimethylethyl 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetate | 3.4 g | CC1(OC(CC(O1)CC(=O)OC(C)(C)C)C=CC1=CC=CC=C1)C | C20H28O4
